US05559111
c) 3-Amino-2(R)-methylpropionic acid methyl ester hydrochloride
2.7 g of 3-azido-2(R)-methylpropionic acid methyl ester are hydrogenated in the presence of 1.4 g of 10% Pd/C in 50 ml of tetrahydrofuran for 4 hours at room temperature at pH 6.0 (pH-stat; 2N hydrochloric acid). The reaction mixture is filtered and concentrated by evaporation. The title compound is obtained by crystallisation from isopropanol/diethyl ether: 1H NMR (DMSO-d6), δ(ppm)=7.95(3H, bs), 3.65(3H, s), 3.12-2.78 (3H, m), 1.15 (3H, d); m.p. 122°-125° C.

reactant | 3-azido-2(R)-methylpropionic acid methyl ester | 2.7 g | COC([C@@H](CN=[N+]=[N-])C)=O | C5H9N3O2
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
catalyst | Pd/C | 1.4 g | [Pd] | Pd
product | 3-Amino-2(R)-methylpropionic acid methyl ester hydrochloride | Cl.COC([C@@H](CN)C)=O | InChI=1S/C5H11NO2.ClH/c1-4(3-6)5(7)8-2;/h4H,3,6H2,1-2H3;1H/t4-;/m1./s1
